US05859007
To a solution of 12 g of isopropyl-(4-trifluoromethoxy-phenyl)-amine, prepared as in Part A, and 9 mL of triethylamine in 150 mL of methylene chloride stirred at 0° C. is added dropwise 11 g of bromoacetyl bromide and the resulting reaction mixture is stirred overnight at RT. The organic solution is washed successively with 1N HCl, NaHCO3 and dried with Na2SO4. The solvent is removed in vacuo and the residue is purified by silica gel flash column chromatography using hexane/EtOAc 80:20 to afford 10 g of 2-Bromo-N-isopropyl-(4-trifluoromethoxy-phenyl)-acetamide: 1H NMR (300 MHz, CDCl3) δ7.31(m, 4H), 5.00 (m, 1H), 3.54 (s, 2H), 1.10 (d, 6H, J=6.8).

reactant | isopropyl-(4-trifluoromethoxy-phenyl)-amine | 12 g | C(C)(C)NC1=CC=C(C=C1)OC(F)(F)F | C10H12F3NO
reactant | triethylamine | 9 mL | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 11 g | BrCC(=O)Br | C2H2Br2O
reactant | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-N-isopropyl-(4-trifluoromethoxy-phenyl)-acetamide | 10 g | BrC(C(=O)NC(C)C)C1=CC=C(C=C1)OC(F)(F)F | C12H13BrF3NO2
